US03963716
A mixture consisting of 4, 6-dimethyl-5-ethoxycarbonylbenzene-1,2-dicarboxylic acid anhydride (7.8 g. mp. 80°-81°C.), malonic acid (6.5g) dried by heating at 100°C. for 10 hr, and absolute pyridine (7 ml) was heated at 80° - 85°C. for 15 hr. After cooling, 10% aqueous hydrochloric acid was added, and the mixture was extracted with chloroform. The organic layer was washed with water, and extracted with saturated aqueous sodium bicarbonate solution. The sodium bicarbonate extract was made acidic with dilute hydrochloric acid, and further extracted with ethyl acetate. The extract was dried over MgSO4, and the solvent was removed. The resulting residue was recrystallized from ether ~ n-hexane to yield 5,7-dimethyl-6-ethoxycarbonyl-3-hydroxy-3-methylphthalide (5.4g, yield 62%) melting at 118° - 120°C.

reactant | 4, 6-dimethyl-5-ethoxycarbonylbenzene-1,2-dicarboxylic acid anhydride | 7.8 g | CC=1C=C2C(=C(C1C(=O)OCC)C)C(=O)OC2=O | C13H12O5
reactant | malonic acid | 6.5g | C(CC(=O)O)(=O)O | C3H4O4
product | 5,7-dimethyl-6-ethoxycarbonyl-3-hydroxy-3-methylphthalide | 5.4g, yield 62% | CC=1C=C2C(OC(=O)C2=C(C1C(=O)OCC)C)(C)O | C14H16O5
